US09303033B2
The above product 7-(cyclopropylamino)-5-(methylthio)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde was dissolved in 20.0 mL ethanol, added hydantoin (2.82 g, 28.17 mmol) and piperidine (2.70 mL). The reaction was heated to 80° C. for overnight. Cooled the reaction mixture and yellow precipitate was filtered, washed with ethanol, dried to yield (Z)-5-((7-(cyclopropylamino)-5-(methylthio) pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione 4.18 g (90% yield). LCMS (M+1=331)

reactant | 7-(cyclopropylamino)-5-(methylthio)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)SC | C11H12N4OS
reactant | hydantoin | 28.17 mmol, 2.82 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 2.70 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 20.0 mL | C(C)O | C2H6O
product | (Z)-5-((7-(cyclopropylamino)-5-(methylthio) pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 4.18 g, 90% yield | C1(CC1)NC1=CC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)SC | C14H14N6O2S
